US04409217
Methanol (40 ml), tetrahydrofuran (20 ml) and acetic acid (0.3 ml) were added to 4-nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylate (syn isomer, 3.8 g). 10% Palladium carbon (1.9 g) containing water (3 ml) was added to the solution, and subjected to catalytic reduction for 4 hours. After removal of palladium carbon by filtration, the filtrate was concentrated in vacuo. To the residue were added ethyl acetate and water, and the solution was adjusted to pH 7.5 with a saturated solution of sodium bicarbonate. After the aqueous layer was separated, ethyl acetate was added to the aqueous layer, and adjusted to pH 2.0 with 10% hydrochloric acid. The ethyl acetate layer was separated. The organic solution was washed with a saturated solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diisopropyl ether, and then the precipitates were collected by filtration and dried to give 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol- 4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid (syn isomer, 2.31 g).

reactant | Methanol | 40 ml | CO | CH4O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | 4-nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-chloro-3-cephem-4-carboxylate | 3.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=C(SC1)NC=O | C26H25ClN6O10S2
catalyst | Palladium carbon | 1.9 g | [C].[Pd]
solvent | water | 3 ml | O | H2O
product | 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol- 4-yl)acetamido]-3-chloro-3-cephem-4-carboxylic acid | 2.31 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H20ClN5O8S2
